US05866576
1-(6,7-Dihydroxyheptyl)-theobromine (4.00 g, 12.9 mmol) was stirred with hydrogen bromide (12.53 g of a 30% solution in acetic acid, 38.7 mmol) for 2 hours. The mixture was then added over 10 minutes to water (50 mL), ice (50 g) and sodium bicarbonate (30 g) and stirred for 30 minutes. The reaction mixture was extracted with dichloromethane (3×100 mL). A combined organic phase was dried over magnesium sulfate and the solvent was evaporated to obtain a residue (4.90 g, 91% yield) of 1-(6-acetoxy-7-bromoheptyl)-3,7-dimethylxanthine.

reactant | 1-(6,7-Dihydroxyheptyl)-theobromine | 12.9 mmol, 4.00 g | OC(CCCCCN1C(=O)N(C)C=2N=CN(C)C2C1=O)CO | C14H22N4O4
reactant | hydrogen bromide | Br | BrH
reactant | water | 50 mL | O | H2O
reactant | sodium bicarbonate | 30 g | C([O-])(O)=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(6-acetoxy-7-bromoheptyl)-3,7-dimethylxanthine | 4.90 g, 91% yield | C(C)(=O)OC(CCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C16H23BrN4O4
